### ISSUE TITLE
`omega` does not support powers.

### ISSUE THREAD

**Issue by ericrbg** [leanprover/std4#500]
```lean
import Std.Tactic.Omega

example (b : Nat) (h : b = 1 ^ 2) : b = 1 := by
  -- omega -- omega did not find a contradiction: trivial
  change b = 1 at h
  omega

example (b : Nat) (h : b = 2 ^ 1) : b = 2 := by
  -- omega -- omega did not find a contradiction: [0, 1] ∈ [0, 1]
  change b = 2 at h
  omega
```

My understanding is that this is out of scope, and instead `omega` would be improved by a hook into `norm_num`.

**Comment by semorrison** [comment]
One approach here would be to add a `derive` hook that can be customised. Whenever `omega` is about the "give up" on a subexpression, and declare it at atom, we would first call the derive hook, which would be expected to produce a new expression (along with a proof it was equal to the original), or fail if it can't do anything. We would then resume `omega`'s usual processing on the new expression. This would allow e.g. using `ring_nf` (to expend out algebraic expressions) as well as using `norm_num` (as a calculator producing int literals).

**Comment by semorrison** [comment]
These now work, as of `nightly-2024-02-22`.
